US07691863B2
c) 6-Propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid
A mixture of 71.3 mg (0.28 mmol) 6-bromo-5-chloro-pyrazine-2-carboxylic acid methyl ester, 182.4 mg (0.56 mmol) Cs2CO3 and 17 mg (0.286 mmol) propanol in 1 mL DMF was heated to 60° C. for 16 h. Subsequently, 60 mg (0.84 mmol) pyrrolidine was added and the mixture was heated to 100° C. for 16 h. 0.2 mL water and 0.05 mL 5N KOH was added and heated to 60° C. for 2 h. The mixture was purified by preparative HPLC on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The combined product fractions were evaporated to yield 12 mg (17%) of the title compound. m/z (ES+): 252.0 (M+H).

reactant | 6-bromo-5-chloro-pyrazine-2-carboxylic acid methyl ester | 0.28 mmol, 71.3 mg | COC(=O)C1=NC(=C(N=C1)Cl)Br | C6H4BrClN2O2
reactant | Cs2CO3 | 0.56 mmol, 182.4 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | propanol | 0.286 mmol, 17 mg | C(CC)O | C3H8O
reactant | pyrrolidine | 0.84 mmol, 60 mg | N1CCCC1 | C4H9N
reactant | KOH | 5N, 0.05 mL | [OH-].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | 0.2 mL | O | H2O
product | 6-Propoxy-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid | 12 mg, 17% | C(CC)OC1=C(N=CC(=N1)C(=O)O)N1CCCC1 | C12H17N3O3
